US07579473B2
4-(6,7-dimethoxy-quinolin-4-yloxy)-3-fluoro-phenylamine (1.00 g, 3.18 mmol) was dissolved in AcOH (8.0 ml), to which was added NH4SCN (486 mg, 6.38 mmol) and the mixture cooled in an ice bath. Br2 (0.33 ml, 6.42 mmol) in AcOH (0.33 ml) was added dropwise with stirring. After addition was complete, the reaction mixture was stirred at room temperature. After one hour, more NH4SCN (1.0 g, 13.1 mmol) was added, followed by more Br2 (0.33 ml, 6.42 mmol) in AcOH (0.33 ml), dropwise with stirring. The reaction mixture was then heated to reflux for several minutes. Upon cooling to room temperature, solids were filtered and washed with AcOH, followed by H2O. The volume of the filtrate was reduced in vacuo and the pH adjusted to pH 9-10 with 1.0N NaOH. The resulting solids were filtered, washed with H2O, and dried under high vacuum to give 6-(6,7-dimethoxy-quinolin-4-yloxy)-5-fluoro-benzothiazol-2-ylamine (568 mg, 48%). 1H-NMR (400 MHz, DMSO): 8.45 (d, 1H), 7.82 (d, 1H), 7.73 (br s, 2H), 7.53 (s, 1H), 7.38 (m, 2H), 6.44 (d, 1H), 3.94 (s, 6H). LC/MS Calcd for [M+H]+ 372.1, found 372.2

reactant | 4-(6,7-dimethoxy-quinolin-4-yloxy)-3-fluoro-phenylamine | 3.18 mmol, 1.00 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)F | C17H15FN2O3
reactant | NH4SCN | 6.38 mmol, 486 mg | [NH4+].N#C[S-]
reactant | Br2 | 6.42 mmol, 0.33 ml | BrBr | Br2
reactant | NH4SCN | 13.1 mmol, 1.0 g | [NH4+].N#C[S-]
reactant | Br2 | 6.42 mmol, 0.33 ml | BrBr | Br2
solvent | AcOH | 8.0 ml | CC(=O)O | C2H4O2
solvent | AcOH | 0.33 ml | CC(=O)O | C2H4O2
solvent | AcOH | 0.33 ml | CC(=O)O | C2H4O2
product | 6-(6,7-dimethoxy-quinolin-4-yloxy)-5-fluoro-benzothiazol-2-ylamine | 568 mg, 48% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC2=C(N=C(S2)N)C=C1F | C18H14FN3O3S
